US04105789
By substituting nitro-L-arginine benzyl ester for the L-alanine in the procedure of Example 1, and then treating the product by the procedures of Examples 2 and 3, Nα -(3-methoxycarbonyl-2-methylpropanoyl)-nitro-L-arginine benzyl ester, Nα -(3-methoxycarbonyl-2-methylpropanoyl)-L-arginine and Nα -(3-carboxy-2-methylpropanoyl-L-arginine are obtained.

reactant | nitro-L-arginine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N[N+](=O)[O-])CCCNC(N)=N)=O | C13H19N5O4
reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | Nα -(3-methoxycarbonyl-2-methylpropanoyl)-nitro-L-arginine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N(C(C(CC(=O)OC)C)=O)[N+](=O)[O-])CCCNC(N)=N)=O | C19H27N5O7
reactant | Nα -(3-methoxycarbonyl-2-methylpropanoyl)-L-arginine | COC(=O)CC(C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)C | C12H22N4O5
product | 3-carboxy-2-methylpropanoyl-L-arginine | C(=O)(O)C([C@H](NC(C(C)C)=O)C(=O)O)CCNC(N)=N | C11H20N4O5
